** sch_path: /foss/designs/a_zonetic2026/XSCHEM/WEIGTH/WEIGHT_COMP.sch
.subckt WEIGHT_COMP VDD VSS VA VB VC VD WE OUT OUT_N
*.PININFO VDD:B VSS:B VA:I VB:I VC:I VD:I WE:B OUT:B OUT_N:B
x1 VDD VSS WE VA VB VC VD WEIGHT
x2 VDD OUT WE OUT_N VSS comp._out
.ends

* expanding   symbol:  a_zonetic2026/XSCHEM/WEIGTH/WEIGHT.sym # of pins=7
** sym_path: /foss/designs/a_zonetic2026/XSCHEM/WEIGTH/WEIGHT.sym
** sch_path: /foss/designs/a_zonetic2026/XSCHEM/WEIGTH/WEIGHT.sch
.subckt WEIGHT VDD GND OUT VA VC VB VD
*.PININFO VDD:B GND:B VA:I VB:I VC:I VD:I OUT:B
M2 OUT OUT VDD VDD pfet_06v0 L=1u W=2u nf=1 m=6
M3 OUT VD net1 GND nfet_06v0 L=1u W=2.48u nf=1 m=2
M5 OUT VC net2 GND nfet_06v0 L=1u W=2.48u nf=1 m=2
M6 net2 IN net10 GND nfet_06v0 L=1u W=1.24u nf=1
M1 OUT OUT net3 GND nfet_06v0 L=1u W=2u nf=1 m=2
M7 net3 OUT net4 GND nfet_06v0 L=1u W=2u nf=1
M8 net4 OUT GND GND nfet_06v0 L=1u W=2u nf=1
M9 OUT VA net5 GND nfet_06v0 L=1u W=2.48u nf=1 m=2
M10 net5 IN net11 GND nfet_06v0 L=1u W=1.24u nf=1
M11 OUT VB net6 GND nfet_06v0 L=1u W=2.48u nf=1 m=2
M12 net6 IN net12 GND nfet_06v0 L=1u W=1.24u nf=1
M4 net1 IN net13 GND nfet_06v0 L=1u W=1.24u nf=1
M13 IN IN VDD VDD pfet_06v0 L=1u W=2u nf=1
M14 net8 IN net9 GND nfet_06v0 L=1u W=0.7u nf=1
M15 net7 IN net8 GND nfet_06v0 L=1u W=0.7u nf=1
M16 IN IN net7 GND nfet_06v0 L=1u W=0.7u nf=1
M17 net9 IN GND GND nfet_06v0 L=1u W=0.7u nf=1
Vmeas net11 GND 0
.save i(vmeas)
Vmeas1 net12 GND 0
.save i(vmeas1)
Vmeas2 net10 GND 0
.save i(vmeas2)
Vmeas3 net13 GND 0
.save i(vmeas3)
.ends


* expanding   symbol:  a_zonetic2026/XSCHEM/WEIGTH/comp._out.sym # of pins=5
** sym_path: /foss/designs/a_zonetic2026/XSCHEM/WEIGTH/comp._out.sym
** sch_path: /foss/designs/a_zonetic2026/XSCHEM/WEIGTH/comp._out.sch
.subckt comp._out VDD OUT IN OUT_N VSS
*.PININFO IN:I VDD:B OUT:O VSS:B OUT_N:O
x1 VDD IN net1 VSS INV_1
x2 VDD net1 OUT VSS INV_1
x3 VDD OUT OUT_N VSS INV_1
.ends


* expanding   symbol:  DESIGN/FINAL/WEIGTH/INV_1.sym # of pins=4
** sym_path: /foss/designs/DESIGN/FINAL/WEIGTH/INV_1.sym
** sch_path: /foss/designs/DESIGN/FINAL/WEIGTH/INV_1.sch
.subckt INV_1 VDD IN OUT VSS
*.PININFO IN:I VDD:B OUT:O VSS:B
M1 OUT IN VDD VDD pfet_05v0 L=0.5u W=1.83u nf=1
M2 OUT IN VSS VSS nfet_05v0 L=0.6u W=1.32u nf=1
.ends

